US06248739B1
N-(4-chlorobenzyl)-6-[(E)-3-hydroxy-1-propenyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A mixture of N-(4-Chlorobenzyl)-6-[(1E)-3-hydroxy-1-propenyl]-4-hydroxy-3-quinolinecarboxamide from Preparation No. 12 (0.184 g), K2CO3 (0.276 g) and iodomethane (0.062 mL) in DMF (2 mL) is heated in a stoppered flask at 90° C. for 1 h. Water is added and the mixture is allowed to cool and stir at room temperature for 16 h during which a precipitate formed. The precipitate is filtered and dried in vacuo at 60° C. for 48 h to give 0.164 g of the title compound as a solid.

reactant | N-(4-Chlorobenzyl)-6-[(1E)-3-hydroxy-1-propenyl]-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)\C=C\CO)C=C1 | C20H17ClN2O3
reactant | K2CO3 | 0.276 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.062 mL | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-6-[(E)-3-hydroxy-1-propenyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.164 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)\C=C\CO)C)C=C1 | C21H19ClN2O3
